US07589090B2
N-[4-Amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-2-chloro-acetamide (0.31 g, 0.65 mmol), N,N-di-n-propylamine (0.33 g, 3.25 mmol) and sodium iodide (20 mg) were added to 20 mL acetone. The reaction mixture was stirred at 55° C. under nitrogen atmosphere for 22 hours, then cooled and concentrated under reduced pressure. The residue was diluted with water and extracted with methylene chloride. The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The resulting oil was purified by flash chromatography (methylene chloride/MeOH 100:1) to give 115 mg (33%) of N-[4-amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-2-dipropylamino-acetamide, m.p.=129-131° C., MS (M+H)=542.

reactant | N-[4-Amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-2-chloro-acetamide | 0.65 mmol, 0.31 g | NC1=NC(=NC=C1OC1=C(C=C(C(=C1)I)OC)C(C)C)NC(CCl)=O | C16H18ClIN4O3
reactant | N,N-di-n-propylamine | 3.25 mmol, 0.33 g | C(CC)NCCC | C6H15N
reactant | sodium iodide | 20 mg | [I-].[Na+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | N-[4-amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-2-dipropylamino-acetamide | 115 mg, 33% | NC1=NC(=NC=C1OC1=C(C=C(C(=C1)I)OC)C(C)C)NC(CN(CCC)CCC)=O | C22H32IN5O3
